US06677462B2
A solution of 2.0 M LDA in heptane/THF/ethylbezene (9.4 mL, 18.8 mmol) was added slowly to a stirred solution of tert-butylacetate (2.18 g, 18.8 mmol) in dry THF (20 mL) under N2 at −78° C. After being stirred at −78° C. for 25 min., a solution of the above made 3-hydroxy-5-phenyl-pentanoic acid methyl ester (1.3 g, 6.25 mmol) in dry THF (10 mL) was then added through a cannula. The resultant clear solution was stirred at −78° C. for 1 h and then at −55° C. for another 1 h. The reaction was quenched by the addition of 20% aqueous acetic acid (20 mL). Two layers were separated and the aqueous layer was extracted with EtOAc (3×30 mL). Combined organic layer was washed with H2O (50 mL, brine (50 mL, dried with sodium sulfate, and then concentrated to leave an oil. Flush column chromatography purification on silica gel (4:1 Hexane/EtOAc to 2:1 Hexane/EtOAc) afforded the intermediate 5-Hydroxy-3-oxo-7-phenyl-heptanoic acid tert-butyl ester as a colorless oil (1.74 g, 95%). 1H NMR (300 MHz, CDCl3) δ1.45 (s, 9H), 1.6-1.9 (m, 2H), 2.50-2.85 (m, 4H), 3.35 (s, 3 H), 3.95-4.10 (m, 1H), 7.10-7.30 (m, 5H). ESMS calcd (C17H24O4): 292.2; found: 291.2 (M−H)+.

reactant | LDA | 2.0 M | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF ethylbezene | 18.8 mmol, 9.4 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | tert-butylacetate | 18.8 mmol, 2.18 g | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | 3-hydroxy-5-phenyl-pentanoic acid methyl ester | 6.25 mmol, 1.3 g | COC(CC(CCC1=CC=CC=C1)O)=O | C12H16O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Hydroxy-3-oxo-7-phenyl-heptanoic acid tert-butyl ester | 1.74 g, 95% | C(C)(C)(C)OC(CC(CC(CCC1=CC=CC=C1)O)=O)=O | C17H24O4
